US08541575B2
N-(3-acetyl-2,4-difluoro-phenyl)-2,5-difluoro-benzenesulfonamide (2.88 g, 8.293 mmol) was dissolved in dry DCM (75 mL) under nitrogen atmosphere. DIPEA (1.55 mL, 9.12 mmol, 1.1 eq) was then added, followed by 2-methoxyethoxymethyl chloride (0.98 mL, 9.12 mmol, 1.1 eq) and the mixture was stirred at room temperature for 1 h. It was then diluted with DCM and washed with water and brine, dried over Na2SO4 and evaporated to dryness. The crude product was purified by chromatography on silica gel (n-hexane/ethyl acetate 7:3) to give 2.25 g (62%) of N-(3-acetyl-2,4-difluoro-phenyl)-2,5-difluoro-N-(2-methoxy-ethoxymethyl)-benzene-sulfonamide as a yellow oil.

reactant | N-(3-acetyl-2,4-difluoro-phenyl)-2,5-difluoro-benzenesulfonamide | 8.293 mmol, 2.88 g | C(C)(=O)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C14H9F4NO3S
reactant | DIPEA | 9.12 mmol, 1.55 mL, 1.1 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-methoxyethoxymethyl chloride | 9.12 mmol, 0.98 mL, 1.1 eq | COCCOCCl | C4H9ClO2
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | N-(3-acetyl-2,4-difluoro-phenyl)-2,5-difluoro-N-(2-methoxy-ethoxymethyl)-benzene-sulfonamide | 2.25 g, 62% | C(C)(=O)C=1C(=C(C=CC1F)N(S(=O)(=O)C1=C(C=CC(=C1)F)F)COCCOC)F | C18H17F4NO5S
